US08735586B2
5-Chloro-2-methyl-1-phenyl-1H-benzimidazole
The title compound was prepared with the analogous procedure described in example 1 using 4-Chloro-1-bromo-2-nitrobenzene (118 mg, 0.5 mmol) and N-phenylacetamide (81 mg, 0.6 mmol), as starting materials to yield the title compound as yellow solid (68 mg, 56% yield). mp 109-111° C. 1H NMR (DMSO) δ 2.52 (s, 3 H), 7.22 (d, J=8.6 Hz, 1 H), 7.34 (d, J=8.6 Hz, 1 H), 7.48-7.59 (m, 5 H), 7.86 (s, 1 H); 13C NMR δ 13.5, 112.2, 116.4, 123.9, 126.9, 127.9, 129.7, 130.1, 133.9, 138.5, 154.0, 157.0. HRMS (FAB): cal. for C14H12N2Cl [M+H+]: 243.0689; found: 243.0684.

reactant | 4-Chloro-1-bromo-2-nitrobenzene | 0.5 mmol, 118 mg | ClC1=CC(=C(C=C1)Br)[N+](=O)[O-] | C6H3BrClNO2
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 5-Chloro-2-methyl-1-phenyl-1H-benzimidazole | 68 mg, 56% yield | ClC1=CC2=C(N(C(=N2)C)C2=CC=CC=C2)C=C1 | C14H11ClN2
